US09284308B2
3-Benzyl-4-chloro-6-iodo-2-(trifluoromethyl)quinoline
A solution of 3-benzyl-6-iodo-2-(trifluoromethyl)quinolin-4-ol (6.10 g, 14.2 mmol, Intermediate 71: step a) in phosphoryl trichloride (18 mL, 194 mmol) was heated at 110° C. for 3 hours, then concentrated in vacuo. After cooling down to room temperature, ice-water and DCM were added to the residue, and the mixture was basified at 4° C. by the addition of 50% aqueous NaOH and concentrated NH4OH to pH 9. The organic layer was separated and the aqueous layer was extracted with DCM. The combined organic phases were dried (Na2SO4), filtered, concentrated, and purified by flash column chromatography (silica gel, 2-6% EtOAc in heptanes), affording a mixture of the title compound and 3-benzyl-4-chloro-2-(trifluoromethyl)quinoline in ˜2:1 ratio.

reactant | 3-benzyl-6-iodo-2-(trifluoromethyl)quinolin-4-ol | C(C1=CC=CC=C1)C=1C(=NC2=CC=C(C=C2C1O)I)C(F)(F)F | C17H11F3INO
reactant | phosphoryl trichloride | 194 mmol, 18 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-benzyl-4-chloro-2-(trifluoromethyl)quinoline | C(C1=CC=CC=C1)C=1C(=NC2=CC=CC=C2C1Cl)C(F)(F)F | C17H11ClF3N
product | 3-Benzyl-4-chloro-6-iodo-2-(trifluoromethyl)quinoline | C(C1=CC=CC=C1)C=1C(=NC2=CC=C(C=C2C1Cl)I)C(F)(F)F | C17H10ClF3IN
